US07109199B2
5-Bromo-2-oxo-1,2-dihydro-pyridine-3-carbonitrile
Bromine (29 ml, 560 mmol) was added to a stirred solution of 2-oxo-1,2-dihydro-pyridine-3-carbonitrile (34 g, 280 mmol) in acetic acid (180 ml) at room temperature. After 14 hours the reaction mixture was concentrated in vacuo and the resulting oil was trituated with ethanol to afford the title compound as a solid.

reactant | Bromine | 560 mmol, 29 ml | BrBr | Br2
reactant | 2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 280 mmol, 34 g | O=C1NC=CC=C1C#N | C6H4N2O
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | BrC=1C=C(C(NC1)=O)C#N | C6H3BrN2O
